US07612099B2
Naphthalene-2-sulfonic acid (2-{2-[(4-hydroxy-5-isopropyl-2-oxo-2,5-dihydro-1H-pyrrol-3-yl)-phenyl-methyl]-1H-indol-3-yl}-ethyl)-amide
Using general procedure C, 4-hydroxy-5-isopropyl-1,5-dihydro-pyrrol-2-one (Lit. 11) was reacted with benzaldehyde and naphthalene-2-sulfonic acid [2-(1H-indol-3-yl)-ethyl]-amide (Lit. 1) to give the title compound as an orange solid. MS: 580.3 ([M+H]+).

reactant | 4-hydroxy-5-isopropyl-1,5-dihydro-pyrrol-2-one | OC1=CC(NC1C(C)C)=O | C7H11NO2
reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
reactant | naphthalene-2-sulfonic acid [2-(1H-indol-3-yl)-ethyl]-amide | N1C=C(C2=CC=CC=C12)CCNS(=O)(=O)C1=CC2=CC=CC=C2C=C1 | C20H18N2O2S
product | Naphthalene-2-sulfonic acid (2-{2-[(4-hydroxy-5-isopropyl-2-oxo-2,5-dihydro-1H-pyrrol-3-yl)-phenyl-methyl]-1H-indol-3-yl}-ethyl)-amide | OC1=C(C(NC1C(C)C)=O)C(C=1NC2=CC=CC=C2C1CCNS(=O)(=O)C1=CC2=CC=CC=C2C=C1)C1=CC=CC=C1 | C34H33N3O4S
